US07678802B2
4-Fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester.
To a round bottom flask charged with a stir bar was added 3-Bromo-4-fluoro-benzoic acid methyl ester (1.66 g, 7.12 mmol), Bis(pinacolato)diboron (2.2 g, 8.5 mmol), potassium acetate (2.1 g, 21.3 mmol), and (0.35 g, 0.43 mmol) [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium (11), complex with dichloromethane (1:1). The reaction was sealed with a septum, evacuated and the placed under a nitrogen atmosphere, followed by the addition of 20 ml of dry DMSO. The reaction was heated at 80° C. in an oil bath for two hours. The reaction was allowed to cool to room temperature and partitioned between ethyl acetate and water. Organic layer was separated, and the aqueous layer was extracted two more times. All organics were combined, dried over MgSO4, filtered and concentrated under reduced pressure to a black oil. The product was purified by flash chromatography using a gradient of EtOAc/Hexanes 0 to 60%, to afford the desired product as a white solid (1.48 g, 74% yield). LC/MS (10-99%) M/Z 281.4, retention time 2.73 minutes.

reactant | 3-Bromo-4-fluoro-benzoic acid methyl ester | 7.12 mmol, 1.66 g | COC(C1=CC(=C(C=C1)F)Br)=O | C8H6BrFO2
reactant | Bis(pinacolato)diboron | 8.5 mmol, 2.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 21.3 mmol, 2.1 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium | 0.43 mmol, 0.35 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 1.48 g, 74% yield | COC(C1=CC(=C(C=C1)F)B1OC(C(O1)(C)C)(C)C)=O | C14H18BFO4
